US06835732B2
5-Methyl-thiophene-2-carboxylic acid [7-(3-dimethylamino-phenyl)-4-methoxy-benzothiazol-2-yl]-amide is synthesized from 5-methyl-thiophene-2-carboxylic acid (7-iodo-4-methoxy-benzothiazol-2-yl)-amide (100 mg, 0.23 mmol) and 3-dimethylaminophenylboronic acid (58 mg, 0.35 mmol) using the general procedure A as a light yellow solid in 71% yield. MS: m/e=424 (M+H+).

reactant | 5-methyl-thiophene-2-carboxylic acid (7-iodo-4-methoxy-benzothiazol-2-yl)-amide | 0.23 mmol, 100 mg | IC1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C14H11IN2O2S2
reactant | 3-dimethylaminophenylboronic acid | 0.35 mmol, 58 mg | CN(C=1C=C(C=CC1)B(O)O)C | C8H12BNO2
product | 5-Methyl-thiophene-2-carboxylic acid [7-(3-dimethylamino-phenyl)-4-methoxy-benzothiazol-2-yl]-amide | 71% yield | CN(C=1C=C(C=CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC)C | C22H21N3O2S2
